// Generated for: spectre
// Generated on: Nov 30 13:34:23 2018
// Design library name: testing
// Design cell name: netlist
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/tech/GF/GF22FDX/Models/Spectre/models/design_wrapper.lib.scs" section=tt_pre

// Library name: testing
// Cell name: netlist
// View name: schematic
R0 (net1 0) resistor r=1K
C0 (net1 0) capacitor c=1p
L0 (net1 0) inductor l=1n
E0 (net1 0 0 0) vcvs gain=1.0
H0 (net1 0) ccvs rm=1.0
G0 (net1 0 0 0) vccs gm=1.0
F0 (net1 0) cccs gain=1.0
V0 (net1 0) vsource type=dc
I0 (net1 0) isource type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
