// Generated for: spectre
// Generated on: Nov 30 13:34:23 2018
// Design library name: testing
// Design cell name: netlist
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/tech/GF/GF22FDX/Models/Spectre/models/design_wrapper.lib.scs" section=tt_pre
parameters fdenable=900m FFL_CP_gain=100u pfdenable=0 cycles=150 fdev=80M \
    fcenter=1G fref=100M fsig=fcenter+fdev Tsim=cycles/fref

// Library name: phase_locked_loop_56GHz_model
// Cell name: pulser
// View name: schematic
subckt pulser vdd voutn voutp vrefn vrefp vss
parameters delay
    DELAY2 (net09 net08 net014 net07) delay td=delay gain=1.0
    DELAY0 (net07 net014 vrefn vrefp) delay td=delay gain=1.0
    E0 (voutp voutn net07 net014 net09 net08) vcvs gain=1.0 type=and
ends pulser
// End of subcircuit definition.

// Library name: testing
// Cell name: netlist
// View name: schematic
R0 (net1 0) resistor r=1K
C0 (net1 0) capacitor c=1p
L0 (net1 0) inductor l=1n
E0 (net1 0 0 0) vcvs gain=1.0
H0 (net1 0) ccvs rm=1.0
G0 (net1 0 0 0) vccs gm=1.0
F0 (net1 0) cccs gain=1.0
V0 (net1 0) vsource type=dc
I0 (net1 0) isource type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=Tsim errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
